US04119710
1-(4'-Amino-3'-chloro-5'-fluoro-phenyl)-2-tert.pentylamino-ethanol,
m.p. of the hydrochloride: 187°-188° C. (decomp.), was prepared from 4'-amino-3'-chloro-5'-fluoro-2-tert.pentylamino-acetophenone hydrochloride and sodium borohydride analogous to Example 1.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-chloro-5'-fluoro-2-tert.pentylamino-acetophenone hydrochloride | Cl.NC1=C(C=C(C=C1F)C(CNC(C)(C)CC)=O)Cl
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-(4'-Amino-3'-chloro-5'-fluoro-phenyl)-2-tert.pentylamino-ethanol | NC1=C(C=C(C=C1F)C(CNC(C)(C)CC)O)Cl | C13H20ClFN2O
